US07947851B2
Step b) Formation of methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-fluorobenzoate
To a suspension of methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate (500 mg, 1.20 mmol) in anhydrous DCE (8 mL) were added hexanal (0.25 mL, 2.07 mmol) and sodium triacetoxyborohydride (825 mg, 3.89 mmol). The reaction mixture was stirred at 70° C. for 3.5 hrs. Then the reaction mixture was diluted with water (10 mL) and extracted with DCM (2×10 mL). The combined organic layers were dried over MgSO4 and the solvents were removed under reduced pressure. Purification by flash chromatography on silicagel (cHex/EtOAc) gave 460 mg (77%) of the title compound as a pale yellow oil. HPLC, Rt: 6.3 min (purity: 99.9%). 1H NMR (CDCl3) δ: 7.47 (d, J=8.3 Hz, 2H), 7.44 (d, J=8.3 Hz, 2H), 7.18 (m, 5H), 6.95 (dd, J=10.1, 9.0 Hz, 1H), 6.74 (m, 1H), 4.52 (s, 2H), 3.91 (s, 3H), 3.38 (t, J=7.7 Hz, 2H), 2.63 (t, J=7.7 Hz, 2H), 1.60 (m, 4H), 1.42-1.25 (m, 8H), 0.92 (m, 6H).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | 1.20 mmol, 500 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
reactant | hexanal | 2.07 mmol, 0.25 mL | C(CCCCC)=O | C6H12O
reactant | sodium triacetoxyborohydride | 3.89 mmol, 825 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 8 mL | ClCCCl | C2H4Cl2
solvent | water | 10 mL | O | H2O
product | methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexyl)amino]-2-fluorobenzoate | 460 mg, 77% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)CCCCCC)C=C1 | C33H38FNO2
